US06197973B1
N-Methoxy-2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzamide
A solution of 8.4 g (22 mmol) of 2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzoyl chloride in 150 ml of toluene was treated with 34 g (0.24 mol) of potassium carbonate, and 16 g (48 mmol) of a 25% strength aqueous methoxyamine hydrochloride solution was subsequently added dropwise. After the reaction mixture had been stirred for 4 hours, it was diluted with 0.5 l of water. The organic phase was then separated off, washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate and finally concentrated. Yield: 8.3 g.

reactant | 2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzoyl chloride | 22 mmol, 8.4 g | ClC1=C(C(=O)Cl)C=C(C(=C1)F)C1=NN(C(=C1Cl)OC(F)F)C | C12H6Cl3F3N2O2
reactant | potassium carbonate | 0.24 mol, 34 g | C([O-])([O-])=O.[K+].[K+]
reactant | methoxyamine hydrochloride | Cl.CON
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.5 l | O | H2O
product | N-Methoxy-2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzamide | CONC(C1=C(C=C(C(=C1)C1=NN(C(=C1Cl)OC(F)F)C)F)Cl)=O | C13H10Cl2F3N3O3
